US04278805
In a reaction vessel, 61 parts of 2,4-diaminotoluene with 432 parts of octyl carbamate and 1.5 parts of sodium methanolate in 1950 parts of octanol are heated to the boiling point (195° C.). After 23 hours, the mixture is allowed to cool and excess octanol and excess octyl carbamate is removed by distillation to a sump temperature of 180° C. Using high pressure liquid chromatography, the residue is analyzed using the external standard method. It is determined that 57 percent of the 2,4-diaminotoluene reacted, resulting in 101 parts (81.7 percent of theory) of 2,4-bis(octoxycarbonylamino)toluene, C25H42O4N2 (molecular weight 434) and 10.9 parts (13.8 percent of theory) of a mixture consisting of 2-amino-4-(octoxycarbonylamino)toluene and 4-amino-2-(octoxycarbonylamino)toluene.

reactant | 2,4-diaminotoluene | NC1=C(C=CC(=C1)N)C | C7H10N2
reactant | octyl carbamate | C(N)(OCCCCCCCC)=O | C9H19NO2
reactant | sodium methanolate | C[O-].[Na+]
solvent | octanol | C(CCCCCCC)O | C8H18O
product | 2,4-bis(octoxycarbonylamino)toluene | 81.7 percent | C(CCCCCCC)OC(=O)NC1=C(C=CC(=C1)NC(=O)OCCCCCCCC)C | C25H42N2O4
